US08389766B2
3-Nitro-4-trifluoromethanesulfonyloxy-benzoic acid methyl ester (89.7 g, 272 mmol), zinc cyanide (19.2 g, 163 mmol) and tetrakis(triphenylphosphine)palladium(0) (15 g) were suspended in N,N-dimethylformamide (2500 ml). The reaction mixture was stirred for 3 hours at 100° C. under an inert atmosphere. The solvent was evaporated and the residue was purified by column chromatography on silica gel (eluent: cyclohexane/ethyl acetate 3:1) to give 4-cyano-3-nitro-benzoic acid methyl ester (34.0 g, 60.7% yield). 1H-NMR (400 MHz, CDCl3): 8.92 (s, 1H), 8.48 (d, 1H), 8.04 (d, 1H), 4.03 (s, 3H) ppm.

reactant | 3-Nitro-4-trifluoromethanesulfonyloxy-benzoic acid methyl ester | 272 mmol, 89.7 g | COC(C1=CC(=C(C=C1)OS(=O)(=O)C(F)(F)F)[N+](=O)[O-])=O | C9H6F3NO7S
reactant | N,N-dimethylformamide | 2500 ml | CN(C=O)C | C3H7NO
catalyst | zinc cyanide | 163 mmol, 19.2 g | [C-]#N.[Zn+2].[C-]#N
catalyst | tetrakis(triphenylphosphine)palladium(0) | 15 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-cyano-3-nitro-benzoic acid methyl ester | 34.0 g, 60.7% yield | COC(C1=CC(=C(C=C1)C#N)[N+](=O)[O-])=O | C9H6N2O4
